US09056859B2
1-[(1S,4S)-2,5-Diazabicyclo[2.2.1]hept-2-yl]-2-[6-(1H-tetrazol-1-yl)pyridin-3-yl]ethanone hydrochloride was prepared in two steps starting from [6-(1H-tetrazol-1-yl)pyridin-3-yl]acetic acid and commercially available tert-butyl (1S,4S)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate in an analogous fashion as described for the synthesis of 1-(piperazin-1-yl)-2-[6-(1H-tetrazol-1-yl)pyridin-3-yl]ethanone hydrochloride. MS m/z 286 (M+1)+.

reactant | [6-(1H-tetrazol-1-yl)pyridin-3-yl]acetic acid | N1(N=NN=C1)C1=CC=C(C=N1)CC(=O)O | C8H7N5O2
reactant | tert-butyl (1S,4S)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate | [C@@H]12N(C[C@@H](NC1)C2)C(=O)OC(C)(C)C | C10H18N2O2
reactant | 1-(piperazin-1-yl)-2-[6-(1H-tetrazol-1-yl)pyridin-3-yl]ethanone hydrochloride | Cl.N1(CCNCC1)C(CC=1C=NC(=CC1)N1N=NN=C1)=O
product | 1-[(1S,4S)-2,5-Diazabicyclo[2.2.1]hept-2-yl]-2-[6-(1H-tetrazol-1-yl)pyridin-3-yl]ethanone hydrochloride | Cl.[C@@H]12N(C[C@@H](NC1)C2)C(CC=2C=NC(=CC2)N2N=NN=C2)=O | InChI=1S/C13H15N7O.ClH/c21-13(19-7-10-4-11(19)6-14-10)3-9-1-2-12(15-5-9)20-8-16-17-18-20;/h1-2,5,8,10-11,14H,3-4,6-7H2;1H/t10-,11-;/m0./s1
